US05545747
A reaction vessel was charged with 111 g of 2-fluoro-4-bromophenol and 700 ml of DMF, and 20 g of 70% sodium hydride was added with stirring at room temperature. The mixture was stirred at room temperature for 1 hour and 56 g of methoxymethyl chloride was then added dropwise. The mixture was stirred at room temperature for 3 hours. The reaction liquid was poured into dilute hydrochloric acid and the organic layer was extracted with benzene. The benzene layer was washed with water and dried over Glauber's salt. The benzene was distilled off and the residue was distilled under reduced pressure to obtain 110 g (yield 88%) of 3-fluoro-4-methoxymethoxybromobenzene.

reactant | 2-fluoro-4-bromophenol | 111 g | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
reactant | sodium hydride | 20 g | [H-].[Na+]
reactant | methoxymethyl chloride | 56 g | COCCl | C2H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | 3-fluoro-4-methoxymethoxybromobenzene | 110 g, yield 88% | FC=1C=C(C=CC1OCOC)Br | C8H8BrFO2
